US06884801B1
2-Amino-N-cyclopropylbenzamide (prepared from cyclopropylamine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give N-cyclopropyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzamide, isolated as the hydrochloride salt.

reactant | 2-Amino-N-cyclopropylbenzamide | NC1=C(C(=O)NC2CC2)C=CC=C1 | C10H12N2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | N-cyclopropyl-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]benzamide | C1(CC1)NC(C1=C(C=CC=C1)NCC=1NCCN1)=O | C14H18N4O
